US04168315
STEP II -- p-Chloro-2-bromo-2-(p-chlorophenyl)acetophenone
Bromine (2 ml.) was added dropwise to a solution of p-chloro-2-(p-chlorophenyl)acetophenone (10 g.; 0.038 mole), chloroform (50 ml.) and diethyl ether (25 ml.). The mixture was heated at reflux for 0.5 hours and cooled (ca. 20°). Following a thorough washing with saturated sodium bicarbonate, the organic solution was dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed at low pressure through silica gel 60 mesh (230-400) with 5% ethyl acetate in hexane. Recrystallization from hexane afforded 2.69 g.; m.p. 81.5°-83°.

reactant | Bromine | 2 ml | BrBr | Br2
reactant | p-chloro-2-(p-chlorophenyl)acetophenone | 0.038 mole, 10 g | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=O | C14H10Cl2O
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | p-Chloro-2-bromo-2-(p-chlorophenyl)acetophenone | ClC1=CC=C(C=C1)C(C(C1=CC=C(C=C1)Cl)Br)=O | C14H9BrCl2O
